US08835472B2
5-Bromo-2-cyclopentyloxy-pyrimidine
36.3 μL (0.40 mmol) cyclopentanol and 38.7 mg (0.20 mmol) 5-bromo-2-chloro-pyrimidine are added to 1.5 mL dioxane and cooled down to 0° C. Then the reaction mixture is charged with 24.0 mg NaH. After removing of the cooling bath the reaction mixture is stirred at r.t. over night. The reaction is quenched by the addition of water. The solvent is removed under vacuo and the residue is dissolved in DCM, washed with water and dried with MgSO4. The solvent is removed under reduced pressure. The crude product is used without further purification.

reactant | cyclopentanol | 0.40 mmol, 36.3 μL | C1(CCCC1)O | C5H10O
reactant | 5-bromo-2-chloro-pyrimidine | 0.20 mmol, 38.7 mg | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | NaH | 24.0 mg | [H-].[Na+]
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | 5-Bromo-2-cyclopentyloxy-pyrimidine | BrC=1C=NC(=NC1)OC1CCCC1 | C9H11BrN2O
